US07229999B2
(RS)-6-Cyclopropylmethoxy-N-(3,3,3-trifluoro-2-hydroxy-2-methyl-propyl)-5-(4-trifluoromethyl-phenyl)-nicotinamide
The title compound was synthesized in analogy to Example 75, using 5-bromo-6-chloro-3-pyridinecarboxylic acid, hydroxymethyl-cyclopropan, 4-trifluoromethyl-phenylboronic acid and 3-amino-1,1,1-trifluoro-2-methyl-propan-2-ol (CAS [354-68-7]) as starting materials to yield (RS)-6-cyclopropylmethoxy-N-(3,3,3-trifluoro-2-hydroxy-2-methyl-propyl)-5-(4-trifluoromethyl-phenyl)-nicotinamide. MS (ISP) 463.0 (M+H)+.

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | hydroxymethyl-cyclopropan | OCC1CC1 | C4H8O
reactant | 4-trifluoromethyl-phenylboronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | 3-amino-1,1,1-trifluoro-2-methyl-propan-2-ol | NCC(C(F)(F)F)(O)C | C4H8F3NO
product | (RS)-6-cyclopropylmethoxy-N-(3,3,3-trifluoro-2-hydroxy-2-methyl-propyl)-5-(4-trifluoromethyl-phenyl)-nicotinamide | C1(CC1)COC1=NC=C(C(=O)NCC(C(F)(F)F)(C)O)C=C1C1=CC=C(C=C1)C(F)(F)F | C21H20F6N2O3
